US05360802
Step 2: 1-(Trifiuoromethylsulphonylaminocarbonyl)-3-nitrobenzene
A solution of trifiuoromethylsulphonamide (2.1 g, 14.1 mmol) in anhydrous dichloromethane (50 ml), cooled to 0° C. was treated with triethylamine (2.0 ml, 14.1 mmol) followed by a solution of 3-nitrobenzoyl chloride (2.5 g, 13.4 mmol) in anhydrous dichloromethane (50ml) dropwise. After stirring at 0° C. for 1h, the mixture was stirred at ambient temperature for 2 h. The mixture was extracted using 1M NaOH (100 ml), and the aqueous phase was acidified using 5M HCl. The aqueous phase was then extracted using dichloromethane (4×100 ml), followed by ethyl acetate (2×100 ml). The combined organic layers were dried (Na2SO4) and evaporated in vacuo to leave a yellow solid. This was recrystallised from diethyl ether:hexane (1:1) to afford the title compound (1.5 g, 36%) as a pale yellow solid. mp 80°-83° C. 1H NMR (360 MHz, D6 -DMSO) δ 7.73 (1H, dd, J=8.0 and 8.0 Hz), 8.35 (2H, m), 8.56 (1H, brs), 8.68 (1H, m).

reactant | trifiuoromethylsulphonamide | 14.1 mmol, 2.1 g | FC(F)(F)S(=O)(=O)N | CH2F3NO2S
reactant | triethylamine | 14.1 mmol, 2.0 ml | C(C)N(CC)CC | C6H15N
reactant | 3-nitrobenzoyl chloride | 13.4 mmol, 2.5 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50ml | ClCCl | CH2Cl2
product | 1-(Trifiuoromethylsulphonylaminocarbonyl)-3-nitrobenzene | 1.5 g, 36% | FC(S(=O)(=O)NC(=O)C1=CC(=CC=C1)[N+](=O)[O-])(F)F | C8H5F3N2O5S
